US03991197
20 G. of 4-(cis-2,2-dimethyl-5-phenyl-3-pyrrolidinyl)-pyridine (racemate) are dissolved under cool temperatures (5°-10° C.) in concentrated nitric acid and 50 ml. of cool concentrated sulfuric acid are slowly added. Thereafter, the reaction mixture is stirred for about 1 hour at 10°-15° C. and then poured on ice. The pH of the reaction mixture is then adjusted to pH 8-9 with 3N sodium hydroxide, also in the cold, and exhaustively extracted with methylenechloride. The combined extracts are dried over sodium sulfate and evaporated in a water pump vacuum to dryness. The product thereby obtained is a mixture of pyrrolidine with para and meta nitrophenyl substituents. The mixture is dissolved in 400 ml. warm ethanol. After the addition of 25 ml. concentrated hydrochloric acid and some ether, a mixture of dihydrochlorides (m-nitrophenyl and p-nitrophenyl, 8 to 2) is obtained. Fractional crystallization from ethanol yields 4-[cis-2,2-dimethyl-5-(m-nitrophenyl)-3-pyrrolidinyl]-pyridine dihydrochloride (racemate) with a melting point of 229°-232° C. (decomp.).

reactant | 4-(cis-2,2-dimethyl-5-phenyl-3-pyrrolidinyl)-pyridine | CC1(N[C@@H](C[C@@H]1C1=CC=NC=C1)C1=CC=CC=C1)C | C17H20N2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | hydrochloric acid | Cl | ClH
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 4-[cis-2,2-dimethyl-5-(m-nitrophenyl)-3-pyrrolidinyl]-pyridine dihydrochloride | Cl.Cl.CC1(N[C@@H](C[C@@H]1C1=CC=NC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C | InChI=1S/C17H19N3O2.2ClH/c1-17(2)15(12-6-8-18-9-7-12)11-16(19-17)13-4-3-5-14(10-13)20(21)22;;/h3-10,15-16,19H,11H2,1-2H3;2*1H/t15-,16+;;/m1../s1
